US08198453B2
A mixture of 10 M BH3.Me2S in THF (25.4 mL, 0.254 mol) and 1 M R-CBS-oxazaborolidine in toluene (38 mL, 0.038 mol) were dissolved in 100 mL anhydrous THF and cooled to −15° C. (R)-tert-butyl 3-(5-chloro-2-methylbenzoyl)piperidine-1-carboxylate in 200 mL anhydrous THF was added dropwise to the above solution and stirred at −15° C. for 2 hr. The reaction was quenched with methanol (300 mL). The solvent was removed under reduced pressure, and the residue was purified by column chromatography to give (R)-tert-butyl 3-((R)-(5-chloro-2-methylphenyl)(hydroxy)methyl)piperidine-1-carboxylate (32 g), which contained 30% isomer.

reactant | Me2S | S(C)C | C2H6S
reactant | toluene | 0.038 mol, 38 mL | C1(=CC=CC=C1)C | C7H8
reactant | (R)-tert-butyl 3-(5-chloro-2-methylbenzoyl)piperidine-1-carboxylate | ClC=1C=CC(=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C1)C | C18H24ClNO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 0.254 mol, 25.4 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((R)-(5-chloro-2-methylphenyl)(hydroxy)methyl)piperidine-1-carboxylate | 32 g | ClC=1C=CC(=C(C1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O)C | C18H26ClNO3
